US06414144B1
B. Methyl (2R)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl)-Amino]Propanoate
Following the procedure of method 1C, methyl (2R)-2-[(1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoate (4.9 mmol, 1.4 g) was hydrogenated using 5% Pd/C (1.5 g) and concentrated HCI (7 mL) in methanol (25 mL) to yield an oil (2.7 mmol, 0.77 9, 55%).

reactant | methyl (2R)-2-[(1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoate | 4.9 mmol, 1.4 g | C1CCC=2NC=3C(=CC=CC3C21)C(=O)N[C@@H](C(=O)OC)C | C16H18N2O3
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | Methyl (2R)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl)-Amino]Propanoate | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@@H](C(=O)OC)C | C16H20N2O3
